US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14, using 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline (600 mg, 1.8 mmol) and thiophene-2-sulfonyl chloride (331 mg, 1.1 mmol) the title compound was obtained (760 mg, 87.8% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.27 (d, J=5.3 Hz, 1H), 7.51-7.57 (m, 2H), 7.29-7.38 (m, 2H), 7.20-7.27 (m, 2H), 7.13-7.17 (br, 1H), 6.98-7.03 (m, 1H), 6.88 (d, J=5.3 Hz, 1H), 3.27-3.37 (m, 1H), 1.43 (d, J=7.1 Hz, 6H). MS (ES+): 477 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline | 1.8 mmol, 600 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(N)C=CC1 | C16H15ClN4S
reactant | thiophene-2-sulfonyl chloride | 1.1 mmol, 331 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2-thiophenesulfonamide | 87.8% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C=1SC=CC1 | C20H17ClN4O2S3
